US08258160B2
Synthesis of 4-methyl-2-(4-phenethyl-1H-1,2,3-triazol-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 14, making variations as necessary to replace 4-methyl-2-(4-(3-phenylpropyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxylic acid with 4-methyl-2-(4-(2-phenylpropyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxylic acid to react with pyridin-3-ylmethanamine, the title compound was obtained as a white solid in 25% yield: mp 114-116° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.59-8.53 (m, 2H), 8.02 (s, 1H), 7.75-7.72 (m, 1H), 7.33-7.18 (m, 6H), 5.57 (m, 1H), 4.64 (d, J=5.9 Hz, 2H), 3.13-3.02 (m, 4H), 2.67 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 161.2, 155.7, 153.9, 149.0, 148.9, 148.6, 140.5, 135.9, 133.6, 128.5, 128.4, 126.3, 123.8, 123.4, 118.6, 41.7, 35.0, 27.2, 17.5; MS (ES+) m/z 405.1 (M+1).

reactant | 4-methyl-2-(4-(3-phenylpropyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1N=NC(=C1)CCCC1=CC=CC=C1 | C16H16N4O2S
reactant | 4-methyl-2-(4-(2-phenylpropyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1N=NC(=C1)CC(C)C1=CC=CC=C1 | C16H16N4O2S
reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
product | 4-methyl-2-(4-phenethyl-1H-1,2,3-triazol-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 25% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1N=NC(=C1)CCC1=CC=CC=C1 | C21H20N6OS
